US08426420B2
i) (S)-4-Benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester
To a solution of 1.00 g (S)-2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester in 15 ml DMF were added 1.24 g HATU, 1.1 ml DIPEA and 0.32 ml benzylamine at 0° C.

reactant | (S)-2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester | 1.00 g | C(C1=CC=CC=C1)OC([C@H](CCC(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | HATU | 1.24 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzylamine | 0.32 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (S)-4-Benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCC(NCC1=CC=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C24H30N2O5
